US07435823B2
Step (b) Preparation of 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-yl trifluoromethanesulfonate
To a solution of 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-ol (Step a, 1.0 g, 2.88 mmol) in CH2Cl2 (40 mL) at 0° C., Et3N (0.40 mL, 2.88 mmol)was added. The reaction was stirred at 0° C. for 5 min and N-phenyltrifluoromethanesulfonimide (1.23 g, 3.45 mmol) was added. The reaction was stirred at 0° C. and gradually warmed to RT for 16 h. The solution was concentrated in vacuo. The crude material was purified by silica gel column chromatography with 75% EtOAc/Hexane to give the titled compound as a white solid. MS (ESI, pos. ion) m/z: 480.1 (M+1).

reactant | 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-ol | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C2C=CC(=CC2=C1)O | C21H17NO4
reactant | Et3N | 2.88 mmol, 0.40 mL | CCN(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 3.45 mmol, 1.23 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC2=CC(=CC=C2C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)(F)F | C22H16F3NO6S
